US08729102B2
D) tert-butyl {(1S)-2-[(4-fluoro-5-formylisoxazol-3-yl)oxy]-1-methylethyl}carbamate
A mixture of tert-butyl [(1S)-2-{[4-fluoro-5-(hydroxymethyl)isoxazol-3-yl]oxy}-1-methylethyl]carbamate (164 mg), Dess-Martin periodinane (288 mg) and acetonitrile (3 mL) was stirred at 0° C. for 1 hr, and then at room temperature for 30 min. To the reaction mixture was further added Dess-Martin periodinane (288 mg), and the mixture was stirred at room temperature for 30 min. To the reaction mixture were added saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium thiosulfate solution, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a colorless oil (155 mg).

reactant | tert-butyl [(1S)-2-{[4-fluoro-5-(hydroxymethyl)isoxazol-3-yl]oxy}-1-methylethyl]carbamate | 164 mg | FC=1C(=NOC1CO)OC[C@H](C)NC(OC(C)(C)C)=O | C12H19FN2O5
reactant | Dess-Martin periodinane | 288 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Dess-Martin periodinane | 288 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | tert-butyl {(1S)-2-[(4-fluoro-5-formylisoxazol-3-yl)oxy]-1-methylethyl}carbamate | 155 mg | FC=1C(=NOC1C=O)OC[C@H](C)NC(OC(C)(C)C)=O | C12H17FN2O5
